US07875645B2
a) (2-Chloro-6-iodo-phenyl)-methanol
To a solution of 47.5 g (168 mmol) 2-chloro-6-iodo-benzoic acid in 300 ml tetrahydrofuran was added dropwise 420 ml (420 mmol) borane-tetrahydrofuran complex (1 M solution in tetrahydrofuran) over 30 min and then the reaction mixture was heated at 45° C. for 16 hours. 40 ml Methanol was added dropwise and then 70 ml of 25% aqueous hydrochloric acid was added dropwise, and the reaction mixture was heated at reflux for 2 hours. After cooling to room temperature the mixture was diluted with ethyl acetate and washed sequentially with water, saturated brine, 2 N aqueous sodium hydroxide solution, water and saturated brine. The organic phases was separated and dried over Na2SO4, filtered and concentrated in vacuo to afford a brown oil. The residue was taken up in 300 ml diethyl ether and the mixture was stirred for 10 min at 0° C. before being filtered. The filtrate was concentrated in vacuo and the residue was purified by chromatography (silica gel, ethyl acetate/heptane 1:3) to afford 8.17 g (18%) of the title compound as an orange crystalline solid. MS (EI): 270.0 (30%) & 268.0 (100%) (M+).

reactant | 2-chloro-6-iodo-benzoic acid | 168 mmol, 47.5 g | ClC1=C(C(=O)O)C(=CC=C1)I | C7H4ClIO2
reactant | borane tetrahydrofuran | 420 mmol, 1 M, 420 ml | B.O1CCCC1
reactant | Methanol | 40 ml | CO | CH4O
reactant | hydrochloric acid | 70 ml | Cl | ClH
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | (2-Chloro-6-iodo-phenyl)-methanol | 8.17 g, 18% | ClC1=C(C(=CC=C1)I)CO | C7H6ClIO
